US05550117
6-Amino-11-cyclopropyl-4-methyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
To a solution of 11-cyclopropyl-4-methyl-6-trifluoromethanesulfonyloxy-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine (0.22 g, 0.55 mmol) in 1,4-dioxane (3 mL) was added 30% ammonium hydroxide (3 mL). The mixture was heated at 100° C. for 15 min. After cooling to room temperature the mixture was diluted with ethyl acetate, washed with water, dried (magnesium sulfate), filtered and concentrated in vacuo. The residue was chromatographed over silica gel (eluted with 1:1:1 ethyl acetate/hexane/methylene chloride→50% ethyl acetate/hexane) to give the title compound (0.045 g, 0.17 mmol, 30%) which crystallized from ethyl acetate/hexane, m.p. 242°-244° C.

reactant | 11-cyclopropyl-4-methyl-6-trifluoromethanesulfonyloxy-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 0.55 mmol, 0.22 g | C1(CC1)N1C2=C(N=C(C3=C1N=CC=C3)OS(=O)(=O)C(F)(F)F)C(=CC=N2)C | C16H13F3N4O3S
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Amino-11-cyclopropyl-4-methyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 0.17 mmol, 0.045 g, 30% | NC=1C2=C(N(C3=C(N1)C(=CC=N3)C)C3CC3)N=CC=C2 | C15H15N5
